US05157038
Preparation of 4-methylene-8-(4-methylpiperazine-1-ylcarbonyl)-2-oxo-3-phenyl-1-oxa-3,8-diazaspiro[4,5]decane
The solution of 3.9 g of 4-methylpiperazin-1-yl-carbonyl chloride in 5 ml of chloroform is dropwise added at a temperature between 0° and 5° C. to a solution containing 4.9 g of 4-methylene-2-oxo-3-phenyl-1-oxa-3,8-diazaspiro[4,5]decane and 7.4 ml of triethylamine in 74 ml of chloroform under stirring. Thereafter, the reaction mixture is stirred at room temperature for an additional 30 minutes. After termination of the reaction the chloroform phase is washed to chloride-free with water, dried over anhydrous sodium sulfate, then the solvent is evaporated under reduced pressure. After recrystallization of the crude product obtained from ethanol under clarifying by activated carbon the title compound is obtained in 83% yield, m.p.: 198°-199° C.

reactant | 4-methylpiperazin-1-yl-carbonyl chloride | 3.9 g | CN1CCN(CC1)C(=O)Cl | C6H11ClN2O
reactant | 4-methylene-2-oxo-3-phenyl-1-oxa-3,8-diazaspiro[4,5]decane | 4.9 g | C=C1N(C(OC12CCNCC2)=O)C2=CC=CC=C2 | C14H16N2O2
reactant | triethylamine | 7.4 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 74 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-methylene-8-(4-methylpiperazine-1-ylcarbonyl)-2-oxo-3-phenyl-1-oxa-3,8-diazaspiro[4,5]decane | 83% yield | C=C1N(C(OC12CCN(CC2)C(=O)N2CCN(CC2)C)=O)C2=CC=CC=C2 | C20H26N4O3
